reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:5]=[N:6][H:9].[o+:1]1[c-:2]([H:7])[o:3][c:4]1[H:8]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],11.268604235919199
[O:1]1[C:2]([H:8])([H:9])[C:3]1=[C:4]=[C:5]([O:6][H:7])[H:10]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],37.11923102848411
[O-:1][C:2](=[C:3]=[O+:6][C:5]([C:4]([H:8])([H:9])[H:10])([H:11])[H:12])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],35.6856377966083
[O:1]1[C:2]([H:7])([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]([H:6])[H:11]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6],85.0237686897597
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[O:3]([N+:7]#[C-:6])[H:12],112.779669969117
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[C:6]=[N:7][H:14])([H:15])[H:16],46.7343023790924
[C:1]([C:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([H:9])[H:12])([H:10])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8],4.411722656975002
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:6]1=[N:7][C:2]([H:11])([H:12])[O:3]/[C:4]1=[N:5]/[H:13])([H:8])([H:9])[H:10],108.57283748158702
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([O:5][H:15])=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],34.46641040100861
[O:1]=[C:2]([N:3]([C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])[H:8])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],77.993864556636
[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[C:3](=[O:4])([H:8])[H:9].[O:1]([C:2]([H:5])([H:6])[H:7])[H:10],96.834499675352
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]([C:3](=[O:4])[H:11])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[H:12][H:13],81.7999786073964
[C:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],9.322774271674696
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3](=[O:4])[C@@:5]1([C:6][C:7]([H:13])([H:14])[H:15])[H:8]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],25.364350783548197
[C:3]([H:7])[H:8].[O:1]([C:2](=[C:4]([H:9])[H:10])[H:6])[H:5]>>[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5],8.332182068958218
[O:1]([C:2]([C:3]([C:4][O:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],29.0798569282164
[C:1]([C:2](=[O:3])[C:4](/[N:5]=[C:6](\[O:7][H:12])[H:16])([H:13])[H:14])([H:8])([H:9])[H:10].[H:11][H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],41.0904886429566
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2](/[C:3](=[N:5]\[C:4]([H:11])([H:12])[H:13])[C:6](=[O:7])[H:14])([H:9])[H:10])[H:8],66.0468299812399
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C-:2]=[O+:3][C@:6]1([H:11])[C:4](=[O:5])[O:7]1)([H:8])([H:9])[H:10],79.9393481907713
[H:7][H:8].[O:1]=[C:2]=[N:3][C:4]([C:5]#[N:6])([H:9])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],57.89609658226449
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4][C:6]([H:16])([H:17])[H:18])[H:10])([H:7])([H:8])[H:9],101.064273973613
[C:1]([O+:2]=[C:3]=[C:5]([O-:6])[H:14])([H:7])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],17.574035933990196
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])([H:11])[H:12])([H:7])([H:8])[H:9].[H:10][H:16],88.80037908203
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[O:6]1)\[H:7]>>[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:12])[H:13].[N:1](=[C:2])[H:7],101.282111828375
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([N:2]([C:3][N:4]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9],51.62839873873139
